Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
fluticasone
 
Attending: ___.
 
Chief Complaint:
s/p fall 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with afib presents s/p mechanical fall. She reports that she 
fell yesterday while walking up concrete stairs. She states she 
is looking through the windows of ___ to find her 
friends when she missed a step and fell, hitting her face. 
Denies LOC. She denies chest pain, shortness of breath no 
abdominal pain, leg swelling, rash. She feels well overall. She 
denies vision changes no difficulty with speech, gait sensation 
or strength no difficulty with gait. She is on pradaxa and 
nadolol for A. fib.  
 In the ED, initial vitals: 97 74 104/65 16 100RA, HR increased 
to 120-150s.  
 - Labs notable for: Na 125  
 - Imaging notable for: CT head with no intracranial 
abnormality, CXR unremarkable  
 - Patient given: metop PO 25mg, 10mg IV X2, 5mg IV X1, dilt 
15mg IV X1, given 3L NS  
 - Vitals prior to transfer: HR 100  
 - Admitted to medicine given afib w/RVR.  
 On arrival to the floor, pt says she feels normal. No fever, 
chills, CP, SOB, palpitations  
 REVIEW OF SYSTEMS: 10 unit ROS negative unless positive per HPI 
 
 

 
Past Medical History:
 Afib  
 HTN 
 ?Mild cog decline
 Hyponatremia unknown etiology 
 ___'s Thyroiditis w/ yearly TSH
 
Social History:
___
Family History:
MOTHER- breast cancer at approx age ___, mastectomy, chemo. no 
other close female relatives. 
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
============================
Vitals: 97.6  PO 134 / 90 110 16 96  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, dry abrasions over R eyebrow and R 
upper lip  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: irregular irregular, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, no cyanosis or edema  
Skin: Without rashes or lesions  
Neuro: A&Ox3. Grossly intact.  

PHYSICAL EXAM ON DISCHARGE:
===========================
Vital: 98.2 PO 120 / 76 73 16 95 ra 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, dry abrasions over R eyebrow and R 
upper lip. PERRLA, EOMi. No tongue lesions.
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: irregular irregular, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, no cyanosis or edema. Ecchymosis right 
knee w/ no effusion and good ROM. 
MSK: Full ROM UE, ___  
Skin: Without rashes or lesions  
Neuro: alert, oriented to person, place, situation but thought 
today was ___. Grossly intact. Gait intact.
 
Pertinent Results:
LABS ON ADMISSION/DISCHARGE:
================================
___ 04:54PM BLOOD WBC-7.2 RBC-4.11 Hgb-13.2 Hct-39.8 MCV-97 
MCH-32.1* MCHC-33.2 RDW-12.4 RDWSD-44.0 Plt ___
___ 04:54PM BLOOD Neuts-61.2 ___ Monos-10.7 Eos-3.0 
Baso-0.4 Im ___ AbsNeut-4.42 AbsLymp-1.76 AbsMono-0.77 
AbsEos-0.22 AbsBaso-0.03
___ 05:10PM BLOOD ___ PTT-51.9* ___
___ 10:35AM BLOOD Glucose-148* UreaN-6 Creat-0.6 Na-128* 
K-4.0 Cl-98 HCO3-18* AnGap-16
___ 04:54PM BLOOD Glucose-112* UreaN-8 Creat-0.6 Na-125* 
K-4.4 Cl-90* HCO3-20* AnGap-19
___ 10:35AM BLOOD Calcium-8.5 Phos-3.1 Mg-1.8
___ 04:54PM BLOOD Calcium-9.0 Phos-4.1 Mg-2.0
___ 10:35AM BLOOD VitB12-PND
___ 10:35AM BLOOD TSH-PND

IMAGING CT Head ___:
===========================
There is no evidence of acute infarction, hemorrhage, edema, or 
mass. Theventricles and sulci are mildly prominent in size 
compatible with mild age-appropriate atrophy. There is 
periventricular and subcortical white matter hypodensity, which 
is nonspecific, but likely the sequela of chronic microvascular 
ischemic changes.  There is calcification of the bilateral 
carotid siphons.
 
No acute osseous abnormalities seen.  There is left maxillary 
sinus and
anterior ethmoidal air cell mild mucosal thickening.  There is 
partial
opacification of some right mastoid air cells.  The remaining 
paranasal
sinuses, mastoid air cells, and middle ear cavities are 
otherwise clear. The orbits are unremarkable.

IMPRESSION:  No acute intracranial abnormality. 
  

 
Brief Hospital Course:
___ with afib presents s/p mechanical fall, found to be in afib 
w/ RVR:

# Afib: Hx of afib on pradaxa and nadolol. Presented with 
asymptomatic, HDS Afib w/ RVR w/ rates to 140s. Exacerbating 
factor could have been recent fall. There might also be an 
element of hypovolemia given poor PO intake. No signs of 
infection (no leukocytosis, afebrile, no symptoms). Nadolol 20 
mg was stopped and fractionated metoprolol was started for 
titration to rate control. Patient was continued on pradaxa with 
monitoring for ___ iso head trauma (CT neg). Patient continued 
to have afib w/ RVR, but was asymptomatic, HDS and requested to 
be discharged despite medical advice to remain hospitalized for 
monitoring on telemetry. She expressed understanding of risks of 
fall which could lead to injuries, hemorrhage, and death. She 
was discharged on metoprolol XL 100 mg. 

# s/p mechanical fall: The patient endorsed a mechanical fall 
without associated symptoms or loss of consciousness, though 
there was some concern for possible underlying cardiac etiology 
given severity of patient's fall. Patient did endorse head 
strike. Patient had ecchymosis/abrasions of right eye. Right 
knee w/ ecchymosis w/ intact ROM. CT head negative for acute 
hemorrhage or orbital fracture. Patient was ambulating 
independently prior to discharge. Patient felt well prior to 
discharge w/ no focal neuro deficits.

# At-Risk EtOH Use: Patient reports anywhere from 2 bottles of 
wine per WEEK to ___ bottle wine per NIGHT. There is some c/f 
EtOH use disorder. Patient initiated on multivitamin and 
thiamine prior to discharge. 
 
---------------
CHRONIC ISSUES: 
---------------
# HTN: Continued home enalapril with good BP control. 

# HypoNa: Ongoing issue (126 as outpatient) and unknown 
etiology; thought to be contributing to her cognitive deficits 
(memory loss). Was being followed as outpatient w/ CXR w/ no 
mass. We recommended patient stay in the hospital for further 
___, but she expressed capacity and wanted to 
leave so she could be home for ___. Of note, patient Na 
went from 125 > 128 after fluids, which argues against SIADH. 

# ?Mild Cognitive Decline/Memory issues: Unknown etiology but 
could could be due to hyponatremia vs. EtOH use disorder. 
Previous MRI head w/ mild atrophy.  Ongoing f/u as outpatient w/ 
Dr. ___. 

--------------------
TRANSITIONAL ISSUES: 
--------------------
#STOPPED MEDICATIONS: Nadolol 20 mg 
#NEW MEDICATIONS: Metoprolol XL 100 mg for rate control, Daily 
multivitamin, Daily Thiamine
[] Please follow-up heart rate as outpatient and consider 
uptitration of metoprolol as needed.
[] Ongoing monitoring of mental status in setting of head strike 
and anticoagulation
[] TSH and B12 pending at time of discharge as part of 
hyponatremia w/u
[] Consider checking morning cortisol in setting of hyponatremia
[] Please consider ongoing monitoring/education for at-risk EtOH 
use/EtOH use disorder

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nadolol 20 mg PO DAILY 
2. Enalapril Maleate 20 mg PO DAILY 
3. Dabigatran Etexilate 150 mg PO BID 

 
Discharge Medications:
1.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
4.  Dabigatran Etexilate 150 mg PO BID  
5.  Enalapril Maleate 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mechanical Fall
Atrial fibrillation with RVR
Chronic alcohol use/dependency
Peripheral neuropathy unsepcified

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital after falling. You had a scan of your 
head that did not show evidence of bleeding. While you were in 
the hospital your heart rate was noted to be rapid because of a 
condition you have called atrial fibrillation. We started you on 
a medication called metoprolol to help control your heart rate.

We recommended that you stay in the hospital for further 
monitoring and work up of your low sodium levels but you elected 
to leave the hospital. You were able to voice the risk of 
leaving including bleeding in the head and more falls. 

Please monitor yourself very closely for headache, seizure, 
vision changes, or chest pain. These are all reasons to 
immediately seek care in the emergency room.

Please continue to follow up with your primary care physician. 
An appointment has been scheduled for you. Please see discharge 
instructions.

Your ___ Team 
 
Followup Instructions:
___